US09193744B2
TBAF (1 M solution in THF, 0.560 mL, 0.560 mmol) was added to a solution of rac-(3R,4aR,12bS)—N-cyclopropyl-9-(4-fluorophenyl)-3-((triethylsilyl)oxy)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-12b-carboxamide (44, R1=4-Fluorophenyl, R2′=Cyclopropyl, R3=Trifluoromethyl) (0.230 g, 0.374 mmol) and DCM (6 mL). After about 1 h, TBAF (1 M solution in THF, 0.30 mL, 0.30 mmol) was added. After about 30 min, DCM (50 mL) was added. The solution was washed with water (4×20 mL) and sat. aq. NaCl (20 mL). The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was loaded onto silica gel (6 g) and purified on silica gel (40 g) using a gradient of 0-30% EtOAc in DCM. The product fractions were combined and concentrated to give rac-(3R,4aR,12bS)—N-cyclopropyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-12b-carboxamide (45, R1=4-Fluorophenyl, R2′=Cyclopropyl, R3=Trifluoromethyl) (0.150 g, 78% yield); LC/MS, method 3, Rt=2.46 min.; MS m/z: 502 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.31 (d, J=0.8 Hz, 1H), 7.88 (s, 1H), 7.84-7.74 (m, 2H), 7.57 (s, 1H), 7.45-7.36 (m, 2H), 6.37 (d, J=3.8 Hz, 1H), 5.89 (s, 1H), 2.90-2.64 (m, 2H), 2.63-2.50 (m, 2H), 2.50-2.36 (m, 2H), 2.17-2.06 (m, 1H), 2.03-1.88 (m, 2H), 1.81-1.66 (m, 2H), 1.58-1.35 (m, 2H), 1.32-1.13 (m, 1H), 0.56-0.40 (m, 2H), 0.37-0.15 (m, 2H).

reactant | TBAF | 0.560 mmol, 1 M, 0.560 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | rac-(3R,4aR,12bS)—N-cyclopropyl-9-(4-fluorophenyl)-3-((triethylsilyl)oxy)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-12b-carboxamide | C1(CC1)NC(=O)C12C(CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)CC(CC2)(C(F)(F)F)O[Si](CC)(CC)CC | C33H41F4N3O2Si
reactant | TBAF | 0.30 mmol, 1 M, 0.30 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | rac-(3R,4aR,12bS)—N-cyclopropyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-12b-carboxamide | 78% yield | C1(CC1)NC(=O)C12C(CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)CC(CC2)(C(F)(F)F)O | C27H27F4N3O2
